US08471005B2
Following the procedure of example 532 (c), 2-Methoxy-4-(4-morpholin-4-yl-piperidin-1-yl)-phenylamine (0.095 g, 0.33 mmol) and 2-Methanesulfinyl-7-(2-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazine (0.17 g, 0.51 mmol) were heated in the microwave at 190° C. for 3 hours. Purification by Gilson chromatography gave [7-(2-Methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[2-methoxy-4-(4-morpholin-4-yl-piperidin-1-yl)-phenyl]-amine as a tan solid; MP: 111-112° C.; LCMS (m/e) 563 (M+1); 1H-NMR (DMSO-d6, 400 MHz) δ 8.94 (s, 1H), 8.16-8.14 (d, 1H, J=8.04 Hz), 7.887.85 (t, 1H, J=7.25 Hz), 7.807.60 (t, 1H, J=7.48 Hz), 7.707.68 (d, 1H, J=7.58 Hz), 7.60 (s, 1H), 7.43-7.41 (d, 1H, J=8.45 Hz), 6.94-6.92 (q, 2H, J=5.45 Hz), 6.56 (s, 1H), 6.21-6.19 (d, 1H, J=8.80 Hz), 5.75 (s, 1H), 3.76 (s, 3H), 3.62-3.58 (m, 4H), 3.01 (s, 3H), 2.88 (s, 3H), 2.61-2.55 (t, 1H), 2.23 (t, 1H), 1.86-1.83 (d, 2H, J=11.77 Hz), 1.48-1.45 (q, 2H, J=11.36).

reactant | 2-Methoxy-4-(4-morpholin-4-yl-piperidin-1-yl)-phenylamine | 0.33 mmol, 0.095 g | COC1=C(C=CC(=C1)N1CCC(CC1)N1CCOCC1)N | C16H25N3O2
reactant | 2-Methanesulfinyl-7-(2-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | 0.51 mmol, 0.17 g | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)S(=O)(=O)C | C14H13N3O3S2
product | [7-(2-Methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[2-methoxy-4-(4-morpholin-4-yl-piperidin-1-yl)-phenyl]-amine | CS(=O)(=O)C1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC2=C(C=C(C=C2)N2CCC(CC2)N2CCOCC2)OC | C29H34N6O4S
